US05679696
Aqueous 27.5% hydrogen peroxide (0.32 mL) is added to a solution of 3-cyclopentyloxy-4-methoxyphenyl 3,5-dichloropyrid-4-ylmethyl ketone (990 mg) in glacial acetic acid (13 mL). The reaction is heated at 80° C. for 8 hours then allowed to stand overnight at room temperature. A further aliquot of aqueous 27.5% hydrogen peroxide (0.32 mL) is added and the mixture heated at 80° C. for 2 hours. The reaction mixture is diluted with ethyl acetate (200 mL) and washed with saturated aqueous sodium bicarbonate until the washings remained basic. The mixture is washed with brine (50 mL), dried (MgSO4), concentrated and the residue recrystallized from a mixture of dichloromethane/ethyl acetate/heptane to give 3,5-dichloro-4-(2-(3-cyclopentyloxy-4-methoxyphenyl)-2-oxoethyl)pyridine-N-oxide as a yellow solid, m.p. 179°-180° C. [Elemental analysis: C,57.3; H,4.81; N,3.54; Cl,18.0%; calculated for C19 H19Cl2NO4 : C,57.59; H,4.83; N,3.53; Cl, 17.89%.]

reactant | hydrogen peroxide | 0.32 mL | OO | H2O2
reactant | 3-cyclopentyloxy-4-methoxyphenyl 3,5-dichloropyrid-4-ylmethyl ketone | 990 mg | ClC=1C=NC=C(C1CC(=O)C1=CC(=C(C=C1)OC)OC1CCCC1)Cl | C19H19Cl2NO3
reactant | hydrogen peroxide | 0.32 mL | OO | H2O2
solvent | acetic acid | 13 mL | C(C)(=O)O | C2H4O2
solvent | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
product | 3,5-dichloro-4-(2-(3-cyclopentyloxy-4-methoxyphenyl)-2-oxoethyl)pyridine-N-oxide | ClC=1C=[N+](C=C(C1CC(=O)C1=CC(=C(C=C1)OC)OC1CCCC1)Cl)[O-] | C19H19Cl2NO4
